US04994460
1-[3-(1,3-dioxolan-2-yl)propyl]-4-(5-Fluoro-2-pyrimidinyl) piperazine
A mixture of 4-(5-fluoro-2-pyrimidinyl)piperazine (7.29 g, 40.0 mmol), 2-(3-chloropropyl)-1,3-dioxolane (6.62 g, 5.8 mL, 44.0 mmol) and triethylamine (12.5 mL, 90.0 mmol) in 2-butanone (250 mL) was heated to reflux and treated dropwise (1h) with a solution of NaI (3.0 g, 20.0 mmol) in 2-butanone (70 mL). The reaction mixture was refluxed for 12 h then treated dropwise (1 h) with a solution of NaI (3.0 g, 20.0 mmol) in 2-butanone (70 mL) and refluxed for another 12 h. After cooling at 23° C., the solvent was evaporated in vacuo leaving a residue which was solubilized in EtoAC (400 mL). The organic solution was washed with aqueous NaOH solution (20 mL, 2N); the aqueous phase was extracted with EtoAC (2×50 mL). The organic extracts were combined, dried (MgSO4) and concentrated to dryness. The solution was chromatographed on a silica gel column (4.5×15 cm) using a mixture of 20% MeCN in EtoAc. Appropriate fractions were concentrated in vacuo leaving a pale yellow syrup which crystallized on standing, 10.5 g, mp 54°-55° C. (89%). Recrystallization from EtoAC-pet.ether mixture (1;14) gave an analytical sample, mp 55°-56° C.; 1HNMR (CDCl 3, 200 MHz) δ: 1.5-1.9 (m, 4H), 2.3-2.7 (m, 6H), 3.6-4.1 (m, 8H), 4.8-5.0 (m, 1H), 8.16 (s, 2H); IR (KBr) ν: 1610, 1555, 1489 cm-1 ; UV (EtOH) λ: 244 (ε 17239), 332 (ε 1948);

reactant | 4-(5-fluoro-2-pyrimidinyl)piperazine | 40.0 mmol, 7.29 g | FC=1C=NC(=NC1)N1CCNCC1 | C8H11FN4
reactant | 2-(3-chloropropyl)-1,3-dioxolane | 44.0 mmol, 5.8 mL, 6.62 g | ClCCCC1OCCO1 | C6H11ClO2
reactant | triethylamine | 90.0 mmol, 12.5 mL | C(C)N(CC)CC | C6H15N
reactant | NaI | 20.0 mmol, 3.0 g | [Na+].[I-]
reactant | NaI | 20.0 mmol, 3.0 g | [Na+].[I-]
reactant | KBr | [K+].[Br-]
solvent | 2-butanone | 250 mL | CC(CC)=O | C4H8O
solvent | 2-butanone | 70 mL | CC(CC)=O | C4H8O
solvent | 2-butanone | 70 mL | CC(CC)=O | C4H8O
solvent | EtOH | CCO | C2H6O
product | 1-[3-(1,3-dioxolan-2-yl)propyl]-4-(5-Fluoro-2-pyrimidinyl) piperazine | O1C(OCC1)CCCN1CCN(CC1)C1=NC=C(C=N1)F | C14H21FN4O2
